US07985755B2
(2-Chloro-phenyl)-[4-(2,4-diamino-quinazolin-5-yl)-piperazin-1-yl]-methanone
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 2-chlorobenzoyl chloride (71.8 mg; 0.41 mmol) to obtain 34.1 mg. (45% yield). 1H NMR (500 MHz, DMSO-d6) δ 8.78 (s, 1H), 7.50 (m, 3H), 7.41 (m, 2H), 7.15 (br s, 1H), 6.98 (d, J=8.5 Hz, 1H), 6.86 (d, J=8.0 Hz, 1H), 5.92 (br s, 2H), 4.57 (br s, 1H), 3.45 (m, 2H), 3.02 (m, 3H), 2.78 (m, 2H). ESIMS+384.3 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 2-chlorobenzoyl chloride | 0.41 mmol, 71.8 mg | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | (2-Chloro-phenyl)-[4-(2,4-diamino-quinazolin-5-yl)-piperazin-1-yl]-methanone | 45% yield | ClC1=C(C=CC=C1)C(=O)N1CCN(CC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C19H19ClN6O
